US04247322
Preparation of 5-Chloromethyl-3-(m-Trifluoromethylphenyl)-Isoxazole
To 17.6 g (0.0724 ml) of 3-(m-trifluoromethylphenyl-5-isoxazole methanol (prepared as described in Example 1 except that propargyl alcohol was used instead of propargyl bromide) was added 50 ml of thionyl chloride dropwise under nitrogen. After complete addition of thionyl chloride, the reaction mixture was heated on a steam bath for 30 minutes, thereafter excess thionyl chloride was removed under reduced pressure. The residue was triturated with hexane and an oil precipitate resulted. After partial removal of hexane in a rotary evaporator under reduced pressure, the oil precipitate crystallized and was filtered to give a tan solid, mp 33°-36° C. The tan solid (6 g) was recrystallized from hexane to give 3.0 g of brown solid, mp 33°-37° C. which was Kugelrohr distilled (1 mm, 140° C.) to give 2.9 g of solid, mp, 36°-38° C. Combined filtrates were concentrated and the residue (14.8 g) was Kugelrohr distilled (1 mm, 140° C.) to give 13.6 g of yellow oil which crystallized upon standing, mp 29°-36.5° C.; total yield 16.5 g (87%).

reactant | m-trifluoromethylphenyl-5-isoxazole methanol | FC(C=1C=C(C=CC1)C1=NOC(=C1)CO)(F)F | C11H8F3NO2
reactant | propargyl alcohol | C(C#C)O | C3H4O
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-Chloromethyl-3-(m-Trifluoromethylphenyl)-Isoxazole | 3.0 g | ClCC1=CC(=NO1)C1=CC(=CC=C1)C(F)(F)F | C11H7ClF3NO
